US05061706
c. 7-Ethoxalylaminosulfonyl-1-hydroxy-6-trifluoromethylquinoxaline- 2,3(1H,4H)-dione
A solution of 1-ethoxalylamino-4-ethoxalylaminosulfonyl-2-nitro-5-trifluoromethylbenzene (24.6 g, 50 mmol) in 200 ml of N,N-dimethylformamide was hydrogenated at room temperature and atmospheric pressure in the presence of 1 g of 5% platinum on carbon for 2 h. The catalyst was filtered off and washed with N,N-dimethylformamide. The filtrate was evaporated to dryness and the gummy residue was refluxed with 100 ml of ethanol for about 20 min. The mixture was cooled and the precipitated product was collected by filtration and washed with ethanol and ether to give 12.7 g (59%) of the title compound. M.p. 222° C. decomp. (DSC); IR (KBr): 1685 cm-1 ; 1H-NMR (DMSO-d6): 1.25 (t,J=7Hz, 3H, CH3), 4.23 (q,J=7Hz, 2H, CH2), 7.67 (s, 1H, ArH), 8.30 (s, 1H, ArH), 10.8 (broad s, 2H, exchangeable), 12.5 (broad s, 1H, exchangeable).

reactant | 1-ethoxalylamino-4-ethoxalylaminosulfonyl-2-nitro-5-trifluoromethylbenzene | 50 mmol, 24.6 g | C(=O)(C(=O)OCC)NC1=C(C=C(C(=C1)C(F)(F)F)S(=O)(=O)NC(=O)C(=O)OCC)[N+](=O)[O-] | C15H14F3N3O10S
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | platinum on carbon | 1 g | [Pt] | Pt
product | 7-Ethoxalylaminosulfonyl-1-hydroxy-6-trifluoromethylquinoxaline- 2,3(1H,4H)-dione | 12.7 g, 59% | C(=O)(C(=O)OCC)NS(=O)(=O)C1=C(C=C2NC(C(N(C2=C1)O)=O)=O)C(F)(F)F | C13H10F3N3O8S
